US06262055B1
2,4-dioxo-4-(5-phenethylthiophen-2-yl)butanoic acid
A mixture of 2-acetyl-5-(phenylethynyl)thiophene (1.81 g, 8.02 mmol), diethyl oxalate (2.17 mL, 16 mmol), and sodium ethoxide (1.09 g, 16 mmol) in anhydrous THF (25 mL) was stirred at rt under an atmosphere of argon for 5 hr. The resultant mixture was diluted with dichloromethane, and washed successively with dilute HCl, and brine. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide yellow solid. Recrystallization of the solid from a mixture dichloromethane and hexane provided the title compound.

reactant | 2-acetyl-5-(phenylethynyl)thiophene | 8.02 mmol, 1.81 g | C(C)(=O)C=1SC(=CC1)C#CC1=CC=CC=C1 | C14H10OS
reactant | diethyl oxalate | 16 mmol, 2.17 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 16 mmol, 1.09 g | [O-]CC.[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,4-dioxo-4-(5-phenethylthiophen-2-yl)butanoic acid | O=C(C(=O)O)CC(C=1SC(=CC1)CCC1=CC=CC=C1)=O | C16H14O4S
